US09260420B2
Synthesis of 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-1-benzyloxymethyl-3,4-dihydro-1H-quinolin-2-one
7-[4-(4-Benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-3,4-dihydro-1H-quinolin-2-one (1.0 g, 2.30 mmol) synthesized in the same manner as in WO2006/112464 (Example 11) was suspended in tetrahydrofuran (THF) (20 ml) and, under a nitrogen atmosphere, sodium hydride (55% oil) (0.15 g, 3.44 mmol) was added, and the mixture was stirred with heating under reflux for 30 min. The mixture was ice-cooled, benzylchloromethylether (0.48 ml, 3.46 mmol) was added, and the mixture was stirred at room temperature for 3 hr. To the reaction mixture was added ice water to discontinue the reaction, and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by moderate-pressure silica gel column chromatography (hexane:ethyl acetate=100:0 to 0:100) and concentrated under reduced pressure to give the title compound (yield 0.95 g, 74%) as a pale-yellow oil.

reactant | 7-[4-(4-Benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-3,4-dihydro-1H-quinolin-2-one | 2.30 mmol, 1.0 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(NC1=C2)=O | C25H29N3O2S
reactant | sodium hydride | 3.44 mmol, 0.15 g | [H-].[Na+]
reactant | benzylchloromethylether | 3.46 mmol, 0.48 ml | C(C1=CC=CC=C1)C(Cl)OC(CC1=CC=CC=C1)Cl | C16H16Cl2O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-1-benzyloxymethyl-3,4-dihydro-1H-quinolin-2-one | yield 0.95 g, 74% | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(N(C1=C2)COCC2=CC=CC=C2)=O | C33H37N3O3S
